US07446222B2
Ethyl 6-(5′-chloro-2′-hydroxy-2-biphenylyl)-2-pyridinecarboxylate
Ethyl 6-{5′-chloro-2′-[(phenylmethyl)oxy]-2-biphenylyl}-2-pyridinecarboxylate (1.22 g, 2.75 mmol) was dissolved in acetic acid (5 ml) and 48% hydrogen bromide in acetic acid (5 ml), left at room temperature for 0.5 hours then diluted with diethyl ether/water and basified with potassium carbonate. The organic phase was separated, dried (magnesium sulphate), evaporated and chromatographed on silica eluting with ethyl acetate/iso-hexane (1:3). The product was dissolved in ethanol (20 ml), 60% sodium hydride (2 mg) added and the solution left at room temperature for 16 hours. The resulting solution was acidified with acetic acid, diluted with water/ether and the organic phase washed with saturated sodium bicarbonate solution, dried (magnesium sulphate), evaporated and chromatographed on silica to give 801 mg of colourless gum. LC/MS t=3.33, [MH+] 354.3, 356.3

reactant | Ethyl 6-{5′-chloro-2′-[(phenylmethyl)oxy]-2-biphenylyl}-2-pyridinecarboxylate | 2.75 mmol, 1.22 g | ClC=1C=CC(=C(C1)C1=C(C=CC=C1)C1=CC=CC(=N1)C(=O)OCC)OCC1=CC=CC=C1 | C27H22ClNO3
reactant | hydrogen bromide | Br | BrH
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | diethyl ether water | C(C)OCC.O
solvent | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | Ethyl 6-(5′-chloro-2′-hydroxy-2-biphenylyl)-2-pyridinecarboxylate | 801 mg | ClC=1C=CC(=C(C1)C1=C(C=CC=C1)C1=CC=CC(=N1)C(=O)OCC)O | C20H16ClNO3
